.subckt spi_to_parallel VDD VSS div_ctrl[0] div_ctrl[1] div_ctrl[2] div_ctrl[3] div_ctrl[4]
+ div_ctrl[5] div_ctrl[6] div_ctrl[7] latch rstn sclk sdin
XFILLER_22_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_27_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_6_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_15_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_15_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_9_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_6_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_25_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xoutput7 _05_/Q div_ctrl[3] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_22_123 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_8_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_23_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_2_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_0_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_7_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_29_97 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_29_64 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xhold20 _15_/Q _00_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyc_1
XFILLER_28_173 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_15_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xoutput10 _08_/Q div_ctrl[6] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
Xoutput8 _06_/Q div_ctrl[4] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_0_220 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_22_102 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_12_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_5_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_2_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_29_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_20_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_28_185 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput11 _09_/Q div_ctrl[7] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
Xoutput9 _07_/Q div_ctrl[5] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_11_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_16_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_13_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_27_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_23_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_11_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_18_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_6_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_19_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_16_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_26_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_22_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_10_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_17_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_7_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_7_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_29_89 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_12_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_12_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_11_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_1_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_28_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
Xclkbuf_2_3__f_sclk clkbuf_0_sclk/Z _14_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XFILLER_20_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_23_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_18_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_29_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_09_ _09_/D _15_/RN input1/Z _09_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_0_214 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_7_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_22_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_29_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_8_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_5_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_28_157 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_3_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
X_08_ _08_/D _08_/RN input1/Z _08_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_0_237 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_25_138 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_8_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_26_211 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_2_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_23_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_13_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_9_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_11_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_11_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_29_38 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_19_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_07_ _15_/Q _08_/RN input1/Z _07_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_25_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_21_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_24_172 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_21_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_4_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_17_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_24_94 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_28_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_19_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_0_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_18_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
X_06_ _14_/Q _14_/RN input1/Z _06_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_16_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_26_235 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_27_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_1_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_1_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xhold18 _12_/Q _13_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyc_1
XFILLER_18_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_05_ _14_/D _14_/RN input1/Z _05_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_0_218 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_24_141 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_24_174 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_12_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_17_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_23_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_23_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_8_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_24_41 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xhold19 _14_/Q _15_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyc_1
X_04_ _12_/Q _13_/RN input1/Z _04_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_7_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_15_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_23_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_12_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_4_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_13_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_3_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xinput1 latch input1/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_03_ _12_/D _12_/RN input1/Z _03_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_16_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_26_227 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_13_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xfanout12 _10_/RN _12_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_9_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_24_43 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xinput2 rstn input2/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_10_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_02_ _11_/D _12_/RN input1/Z _02_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_24_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_8_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_21_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_26_239 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_17_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_17_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
Xfanout13 _10_/RN _13_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_6_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
Xinput3 sdin _10_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_19_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_01_ _08_/D _08_/RN _15_/CLK _09_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_21_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xclkbuf_2_2__f_sclk clkbuf_0_sclk/Z _15_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XFILLER_16_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_21_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_25_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_4_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_4_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_1_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xfanout14 _14_/RN _10_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_9_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_24_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_00_ _00_/D _08_/RN _14_/CLK _08_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_24_102 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_24_168 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_20_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_7_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_14_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_4_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xfanout15 _15_/RN _14_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_5_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_10_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_18_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_15_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xfanout16 _15_/RN _08_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_13_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_4_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_18_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_24_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_12_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_16_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_19_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xfanout17 input2/Z _15_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_0_172 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_9_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_9_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_5_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_24_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_14_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_12_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_13_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_11_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_11_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_25_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_7_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_17_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_5_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_28_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_20_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_22_51 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_25_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_4_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_13_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_13_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_10_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_23_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_20_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_6_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_19_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_25_204 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_21_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_5_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_5_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_2_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_18_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_28_235 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xclkbuf_2_1__f_sclk clkbuf_0_sclk/Z _13_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XFILLER_0_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_3_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_28_96 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_1_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_11_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_14_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_8_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_11_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_19_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_26_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_25_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
Xclkbuf_0_sclk sclk clkbuf_0_sclk/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XFILLER_17_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_28_6 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_14_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_19_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_17_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_15_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_5_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_5_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_14_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_26_132 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_25_88 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_2_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_22_45 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_22_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_10_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_15_ _15_/D _15_/RN _15_/CLK _15_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_25_208 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_70 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_28_33 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_9_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_25_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_28_8 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_28_239 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_8_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_19_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_19_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_14_ _14_/D _14_/RN _14_/CLK _14_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_21_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_24_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_28_45 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_138 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_26_167 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_20_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_27_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_6_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
X_13_ _13_/D _13_/RN _13_/CLK _14_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_3_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_17_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_14_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_1_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_25_69 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_23_138 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_28_219 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_3_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_9_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_6_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_22_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_12_ _12_/D _12_/RN _13_/CLK _12_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_28_25 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_21_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_7_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_29_188 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_29_166 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_17_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_25_180 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_23_106 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_7_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_22_49 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_11_ _11_/D _12_/RN _11_/CLK _12_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_15_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_2_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_9_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_28_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_22_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_29_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_1_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_14_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
X_10_ _10_/D _10_/RN _11_/CLK _11_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_15_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_29_70 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_15_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_16_171 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_10_177 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
Xclkbuf_2_0__f_sclk clkbuf_0_sclk/Z _11_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XFILLER_15_236 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_21_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_21_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_29_158 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
Xoutput4 _02_/Q div_ctrl[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_13_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_27_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_10_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_5_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
XFILLER_11_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_29_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_1_228 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_1_206 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_20_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
Xoutput5 _03_/Q div_ctrl[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_3_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_9_136 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_7_212 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_29_138 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_13_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_64
Xoutput6 _04_/Q div_ctrl[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_25_196 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_0_240 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
.ends

